US07531532B2
N-(1-Ethylpiperidin-4-yl)-N-methylamine
To a 40% solution of methylamine in methanol (1.26 g) were added acetonitrile (150 ml), 1-ethyl-4-piperidone (2.0 ml) and acetic acid (0.932 ml), then was added sodium triacetoxyborohydride (6.59 g), followed by stirring for 1 hour. After addition of a saturated aqueous solution of sodium hydrogencarbonate (20 ml), the reaction mixture was concentrated under reduced pressure. To the resultant residue was added methanol (20 ml) to suspend, and the reaction mixture was filtered to remove a solid, which was washed with methanol (20 ml). The filtrate was concentrated under reduced pressure, and tetrahydrofuran (50 ml) was added to the resultant residue to suspend. The reaction mixture was filtered to remove a solid, which was washed with tetrahydrofuran (100 ml). The filtrate was concentrated under reduced pressure to provide a crude product of the titled compound (3.33 g) as pale yellow oil.

reactant | methylamine | CN | CH5N
reactant | 1-ethyl-4-piperidone | 2.0 ml | C(C)N1CCC(CC1)=O | C7H13NO
reactant | sodium triacetoxyborohydride | 6.59 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | methanol | 1.26 g | CO | CH4O
solvent | acetic acid | 0.932 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-(1-Ethylpiperidin-4-yl)-N-methylamine | 3.33 g | C(C)N1CCC(CC1)NC | C8H18N2
